US06511974B1
1-{3-[4-(5H,11H-Pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-pyrazol-1-yl}-butan-1-one
In the manner of Example 32, employing [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (0.71 g) in dry pyridine (10 ml) and butyryl chloride (0.32 g), the title compound (0.54 g) was obtained as a solid, m.p. 105-110° C.; MS, m/z: 424 (M)+.

reactant | [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.71 g | N1N=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C22H18N4O
reactant | butyryl chloride | 0.32 g | C(CCC)(=O)Cl | C4H7ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-{3-[4-(5H,11H-Pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-pyrazol-1-yl}-butan-1-one | 0.54 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)C1=NN(C=C1)C(CCC)=O | C26H24N4O2
